US06503907B2
In analogy to example 3.1, 5-hydroxy-2-methylindole and 1,4-dibrombutane were converted to yield 5-(4-Bromo-butoxy)-2-methyl-1H-indole as colorless solid, mp 85° C., MS: 281 (M, 1Br).

reactant | 5-hydroxy-2-methylindole | OC=1C=C2C=C(NC2=CC1)C | C9H9NO
reactant | 1,4-dibrombutane | BrCCCCBr | C4H8Br2
product | 5-(4-Bromo-butoxy)-2-methyl-1H-indole | BrCCCCOC=1C=C2C=C(NC2=CC1)C | C13H16BrNO
